US07544812B2
A mixture of 5-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one (1.0 g, 3.20 mmol) and 10% Pd/C (0.75 g) in EtOAc (40 mL) was purged with N2 then H2 and then stirred under a H2 balloon atmosphere for 3 h at room temperature. Upon reaction completion, Na2SO4 was added and the mixture filtered through hyflo. The solvent was removed in vacuo to afford 0.747 g (100%) 5-(4-hydroxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one. 1H NMR (500 MHz, CDCl3) δ 7.11 (d, 2H, J=8.31 Hz), 6.76 (d, 2H, J=8.31 Hz), 4.92 (bs, 1H), 4.61 (dd, 1H, J=6.36 Hz, J=4.40 Hz), 3.11 (dd, 1H, J=14.67 Hz, J=4.40 Hz), 2.98 (dd, 1H, J=14.67 Hz, J=4.40 Hz), 1.50 (s, 3H), 1.36 (s, 3H); MS (ES−) Calc'd for C12H13O4 (M−1) 221. Found m/z 221 (100%).

reactant | 5-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one | 3.20 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(CC2C(OC(O2)(C)C)=O)C=C1 | C19H20O4
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.75 g | [Pd] | Pd
product | 5-(4-hydroxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one | 0.747 g, 100% | OC1=CC=C(CC2C(OC(O2)(C)C)=O)C=C1 | C12H14O4
